US07842696B2
DIPEA (151 mg, 0.2 mL, 1.17 mmol) was added to a stirred solution of [(5-phenyl-pyridine-2-carbonyl)-amino]-acetic acid (100 mg, 0.39 mmol) in DMF (2 mL). HOBT (63 mg, 0.46 mmol) and EDCI (89 mg, 0.46 mmol) were then added at room temperature. After 2 minutes, (5-fluoro-2-trifluoromethyl-phenyl)-piperazin-1-yl-methanone hydrochloride salt (146 mg, 0.46 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added and the product was extracted with EtOAc and the organic layer was washed with brine. The organic phase was dried over Na2SO4 and concentrated under reduced pressure to afford 78 mg (39% yield) of 5-phenyl-pyridine-2-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide. LCMS Purity: 95.81%. 1H NMR (DMSO-d6): δ 9 (s, 1H), 8.8 (bt, 1H), 8.3 (d, 1H), 8.1 (m, 1H), 7.9 (m, 1H), 7.8 (d, 1H), 7.6-7.4 (m, 5H), 4.4-4.2 (dd, 2H), 3.8-3.4 (m, 6H), 3.3-3.1 (m, 2H).

reactant | DIPEA | 1.17 mmol, 0.2 mL, 151 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | [(5-phenyl-pyridine-2-carbonyl)-amino]-acetic acid | 0.39 mmol, 100 mg | C1(=CC=CC=C1)C=1C=CC(=NC1)C(=O)NCC(=O)O | C14H12N2O3
reactant | HOBT | 0.46 mmol, 63 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.46 mmol, 89 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | (5-fluoro-2-trifluoromethyl-phenyl)-piperazin-1-yl-methanone hydrochloride salt | 0.46 mmol, 146 mg | Cl.FC=1C=CC(=C(C1)C(=O)N1CCNCC1)C(F)(F)F
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 5-phenyl-pyridine-2-carboxylic acid {2-[4-(5-fluoro-2-trifluoromethyl-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 78 mg, 39% yield | FC=1C=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=NC=C(C=C2)C2=CC=CC=C2)=O)C1)C(F)(F)F | C26H22F4N4O3
